US07179823B1
Sodium hydride (60%, oily, 5.01 g) was added to a solution of 5-hydroxy-2-methylpyridine (12.45 g) and N-phenyltrifluoromethanesulfonimide (40.80 g) in tetrahydrofuran (500 ml) at 0° C., which was stirred at room temperature for 1 hour, and concentrated. The residue was dissolved in ethyl acetate, which was washed with saturated aqueous sodium bicarbonate solution, and with saturated aqueous sodium chloride solution, and then dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain 6-methyl-3-pyridyl trifluoromethanesulfonate (23.10 g, yield 84%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | Sodium hydride | 5.01 g | [H-].[Na+]
reactant | 5-hydroxy-2-methylpyridine | 12.45 g | OC=1C=CC(=NC1)C | C6H7NO
reactant | N-phenyltrifluoromethanesulfonimide | 40.80 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 6-methyl-3-pyridyl trifluoromethanesulfonate | 23.10 g, yield 84% | FC(S(=O)(=O)OC=1C=NC(=CC1)C)(F)F | C7H6F3NO3S
